*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXE160ARA271MHA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXE160ARA271MHA0G_20deg-C 1 2

C1 4 2 2.15e-04
C2 5 2 3.38e-05
C3 6 2 1.79e-05
R1 3 4 1.67e-02
R2 4 5 1.09e-01
R3 5 6 1.47e+00
L1 1 3 3.70e-09

.ENDS
*$
